US09403798B2
(R)-4-{[1-(4-Fluorophenyl)pyrrolidin-3-yl]amino}-1,3,5-triazin-2(1H)-one
To (R)-4-chloro-N-[1-(4-fluorophenyl)pyrrolidin-3-yl]-1,3,5-triazin-2-amine synthesized in Reference Synthesis Example 337, sodium acetate (153 mg, 1.11 mmol), acetic acid (2.0 mL), and water (0.40 mL) were added and the resultant mixture was stirred at 90° C. for 5 hours. After completion of the reaction, the reaction solution was added to saturated sodium bicarbonate aqueous solution and extraction from the resultant mixture with ethyl acetate was performed. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure and the obtained solid was washed with ethyl acetate to obtain the title compound (65.0 mg, two step yield 15%).

reactant | (R)-4-chloro-N-[1-(4-fluorophenyl)pyrrolidin-3-yl]-1,3,5-triazin-2-amine | ClC1=NC(=NC=N1)N[C@H]1CN(CC1)C1=CC=C(C=C1)F | C13H13ClFN5
reactant | sodium acetate | 1.11 mmol, 153 mg | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 0.40 mL | O | H2O
product | (R)-4-{[1-(4-Fluorophenyl)pyrrolidin-3-yl]amino}-1,3,5-triazin-2(1H)-one | 65.0 mg, yield 15% | FC1=CC=C(C=C1)N1C[C@@H](CC1)NC1=NC(NC=N1)=O | C13H14FN5O
